US04496572
A mixture of 7-bromo-1-tetralone (11.25 g), pyridin-3-carboxaldehyde (5.35 g), acetic acid (5 ml) and piperidine (6 ml) was heated on a stream bath for 6 hours and then allowed to stand for 18 hours. The volatile material was evaporated and the residue was dissolved in ethyl acetate. The solution was extracted several times with dilute hydrochloric acid and the combined extracts were made just alkaline with dilute sodium hydroxide solution. The solid was filtered off, washed with water and crystallised from methanol to give 7-bromo-2-(3-pyridylmethylene)-1-tetralone (12.8 g), m.p. 124°-125°.

reactant | 7-bromo-1-tetralone | 11.25 g | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | pyridin-3-carboxaldehyde | 5.35 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | piperidine | 6 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-2-(3-pyridylmethylene)-1-tetralone | 12.8 g | BrC1=CC=C2CCC(C(C2=C1)=O)=CC=1C=NC=CC1 | C16H12BrNO
